US09238644B2
(e) tert-Butyl 4-(4-((4-((2-(1-(methoxycarbonyl)cyclobutyl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (A54)
A suspension of tert-butyl 4-(4-((4-ethynyl-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate A51 (169 mg, 0.380 mmol), methyl 1-(2-iodophenyl)cyclobutanecarboxylate A53 (100 mg, 0.316 mmol), PPh3 (8 mg, 0.03 mmol) and CuI (3 mg, 0.02 mmol) in DMF (3 mL) and Et3N (0.5 mL) was sonicated for 10 minutes before PdCl2(PPh3)2 (22 mg, 0.032 mmol) was added. The reaction mixture was irradiated in the microwave at 120° C. for 20 minutes, adsorbed onto silica gel and purified using column chromatography (Biotage Isolera, 40 g SiO2 cartridge, 0-30% EtOAc in petroleum benzine 40-60° C. (column run twice)) to give the title compound A54 as a yellow oil (33 mg, 16%). LCMS-A: rt 7.919 min; m/z 635 [M+H]+.

reactant | tert-butyl 4-(4-((4-ethynyl-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | C(#C)C1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C23H25F3N4O2
reactant | methyl 1-(2-iodophenyl)cyclobutanecarboxylate | IC1=C(C=CC=C1)C1(CCC1)C(=O)OC | C12H13IO2
reactant | PPh3 | 0.03 mmol, 8 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | Et3N | 0.5 mL | CCN(CC)CC | C6H15N
catalyst | CuI | 0.02 mmol, 3 mg | [Cu]I
catalyst | PdCl2(PPh3)2 | 0.032 mmol, 22 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-Butyl 4-(4-((4-((2-(1-(methoxycarbonyl)cyclobutyl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | COC(=O)C1(CCC1)C1=C(C=CC=C1)C#CC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C35H37F3N4O4
